US04000151
In the manner given in Example 2, 6-nitro-4-phenyl-2-hydrazinoquinoline and triethyl orthoacetate are refluxed in xylene to give 7-nitro-1-methyl-5-phenyl-s-triazolo[4,3-a]quinoline.

reactant | 6-nitro-4-phenyl-2-hydrazinoquinoline | [N+](=O)([O-])C=1C=C2C(=CC(=NC2=CC1)NN)C1=CC=CC=C1 | C15H12N4O2
reactant | triethyl orthoacetate | C(C)(OCC)(OCC)OCC | C8H18O3
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 7-nitro-1-methyl-5-phenyl-s-triazolo[4,3-a]quinoline | [N+](=O)([O-])C=1C=C2C(=CC=3N(C2=CC1)C(=NN3)C)C3=CC=CC=C3 | C17H12N4O2
